US07217723B2
5-Bromo-thiophene-3-carboxylic acid [2-(4-fluorophenyl)-ethyl]-amide
To a solution of 5-bromo-thiophene-3-carboxylic acid (5 g) and [2-(4-fluorophenyl)-ethyl]methyl-amine (the compound of Preparation Example 14) (3.7 g) in dichloromethane (150 mL) was added 1-Ethyl-3-(3-dimethylamino propyl)-carbodiimide.hydrochloride (5.1 g) was added. After stirring for 1.5 hours, the residue resulting from evaporation of the reaction solution in vacuo was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (6 g) was obtained as a colorless oily matter.

reactant | 5-bromo-thiophene-3-carboxylic acid | 5 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | [2-(4-fluorophenyl)-ethyl]methyl-amine | FC1=CC=C(C=C1)CCNC | C9H12FN
reactant | 1-Ethyl-3-(3-dimethylamino propyl)-carbodiimide.hydrochloride | 5.1 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 5-Bromo-thiophene-3-carboxylic acid [2-(4-fluorophenyl)-ethyl]-amide | 6 g | FC1=CC=C(C=C1)CCNC(=O)C1=CSC(=C1)Br | C13H11BrFNOS
